US07214842B2
42.1 μmol of (1,3,5-tris-n-dodecyl-1,3,5-triazacyclohexane)CrCl3 together with 250 ml of toluene were placed under an argon atmosphere in a one liter four-necked flask provided with contact thermometer, stirrer, heating metal and gas inlet tube at 40° C. The solution was saturated with butene. 14.74 mmol of methylaluminoxane (MAO), corresponding to a molar ratio of aluminum:chromium of 350, were then added in the form of a 1.6 M solution in toluene. 1-butene was passed through the light-green/yellow solution obtained after the addition of the MAO. After one hour, a further 40.2 μmol of chromium complex were added, so that the molar ratio of aluminum:chromium was now 180. After a further hour, another 40.5 μmol of chromium complex were added and the molar ratio of aluminum:chromium was then 120. After a total of 3 hours, the reaction was stopped by addition of 15 ml of concentrated hydrochloric acid in 50 ml of methanol and the reaction mixture was stirred for another 15 minutes. 250 ml of methanol were then added and the mixture was stirred for a further 15 minutes. The product was washed three times with water and dried over sodium sulfate. The yield of dodecene was determined by gas-chromatographic analysis of the solution obtained in this way. A total of 25.8 g of dodecene had been formed.

reactant | butene | C=CCC | C4H8
reactant | aluminum | [Al] | Al
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 50 ml | CO | CH4O
catalyst | chromium | [Cr] | Cr
solvent | methanol | 250 ml | CO | CH4O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | dodecene | 25.8 g | C=CCCCCCCCCCC | C12H24
